US08053581B2
Step 4: Preparation of 5-benzyl-2-[2-(3,4-dimethoxy-phenyl)-ethyl]-4-(4-methoxy-phenyl)-thiazole
To a 50 ml eggplant-shaped bottle were added 0.12 g (0.533 mmol) 3-(3,4-dimethoxy-phenyl)-thiopropanamide prepared in the step 3, 0.17 g (0.533 mmol) 2-bromo-1-(4-methoxy-phenyl)-3-phenyl-propan-1-one prepared in the step 3 of Example 1, 0.04 g (0.533 mmol) anhydrous sodium acetate and 20 ml anhydrous ethanol. The resulting mixture was refluxed for 4 hours, when TLC showed the completion of the reaction, and concentrated under a reduced pressure. The reaction mixture was partitioned between water and ethyl acetate each 20 ml, the ethyl acetate layer was washed with saturated brine 2×10 ml, dried over anhydrous Na2SO4, filtered and concentrated to give a solid crude product which was recrystallized with petroleum ether and ethyl acetate to obtain a 0.17 g product as a thick liquid in a yield of 70.8%. 1H-NMR (CDCl3, 400 MHz) δ: 3.06 (2H, t, J=8.40 Hz, CH2), 3.25 (2H, t, J=8.40 Hz, CH2), 3.83 (3H, s, CH3O), 3.84 (3H, s, CH3O), 3.86 (3H, s, CH3O), 4.20 (2H, s, CH2), 6.70˜6.80 (3H, m, ArH), 6.95 (2H, d, J=8.80 Hz, ArH), 7.15˜7.35 (5H, m, ArH), 7.54 (2H, d, J=8.80 Hz, ArH); EI-MS m/e (%): 445.1 (M, 100), 151.1 (93); HREI-MS Calcd. for C27H27NO3S: 445.1712. found: 445.1716.

reactant | 3-(3,4-dimethoxy-phenyl)-thiopropanamide | 0.533 mmol, 0.12 g | COC=1C=C(C=CC1OC)CCC(=S)N | C11H15NO2S
reactant | 2-bromo-1-(4-methoxy-phenyl)-3-phenyl-propan-1-one | 0.533 mmol, 0.17 g | BrC(C(=O)C1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C16H15BrO2
reactant | sodium acetate | 0.533 mmol, 0.04 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-benzyl-2-[2-(3,4-dimethoxy-phenyl)-ethyl]-4-(4-methoxy-phenyl)-thiazole | 0.17 g, yield of 70.8% | C(C1=CC=CC=C1)C1=C(N=C(S1)CCC1=CC(=C(C=C1)OC)OC)C1=CC=C(C=C1)OC | C27H27NO3S
